US09227970B2
A mixture of 5-bromopyridin-2-amine (2 g, 11.6 mmol), nicotinonitrile (24.1 g, 231 mmol), 1,10-phenanthroline monohydrate (115 mg, 578 μmol) and copper (I) bromide (82.9 mg, 578 μmol) was placed in a 100 ml 2 necked flask and heated to 135° C. Heating was continued while air was bubbled gently through the mixture for 1.5 days. The excess nicotinonitrile was distilled off under reduced pressure and the black residue purified by chromatography (70 g silicagel column using heptane/ethyl acetate 10-100% as eluent). Final evaporation of the solvents afforded 6-bromo-2-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine (1.66 g, 52%) as yellow solid. Mp.: 176° C. MS: m/z=275/277 (M+H+).

reactant | 5-bromopyridin-2-amine | 11.6 mmol, 2 g | BrC=1C=CC(=NC1)N | C5H5BrN2
reactant | nicotinonitrile | 231 mmol, 24.1 g | C(C1=CN=CC=C1)#N | C6H4N2
catalyst | copper (I) bromide | 578 μmol, 82.9 mg | [Cu]Br
catalyst | 1,10-phenanthroline monohydrate | 578 μmol, 115 mg | O.N1=CC=CC2=CC=C3C=CC=NC3=C12
product | 6-bromo-2-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine | 1.66 g, 52% | BrC=1C=CC=2N(C1)N=C(N2)C=2C=NC=CC2 | C11H7BrN4
